US05292785
1-O-(2,4,8,10-Tetra-tert-butyl-dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl)-2,2'-methylenebis-(4,6-di-tert-butylphenol)
Into a solution of 21.23 g (50 mmol) of 2,2'-methylenebis(4,6-di-tert-butylphenol) and 7 mL (50 mmol) of triethylamine in 200 mL of toluene is added dropwise a solution of 23.84 g (50 mmol) of 3-chloro-2,4,8,10-tetra-tert-butyl-dibenzo[d,f][1,3,2]dioxaphosphepin in 100 mL of toluene at ambient temperature. After 20 hours of stirring at ambient temperature, the reaction mass is filtered to remove triethylamine hydrochloride and the filtrate is concentrated in vacuo to give a brownish oil. Trituration of the crude oil with 200 mL of acetonitrile gives 36.65 g (85% yield) of a white solid: m.p.=195°-205° C.

reactant | 2,2'-methylenebis(4,6-di-tert-butylphenol) | 50 mmol, 21.23 g | C(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C29H44O2
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-2,4,8,10-tetra-tert-butyl-dibenzo[d,f][1,3,2]dioxaphosphepin | 50 mmol, 23.84 g | ClC=1C(=CC2=C(OPOC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)C1C(C)(C)C)C(C)(C)C | C28H40ClO2P
reactant | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 1-O-(2,4,8,10-Tetra-tert-butyl-dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl)-2,2'-methylenebis-(4,6-di-tert-butylphenol) | 36.65 g, 85% yield | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)OC3=C(C=C(C=C3C(C)(C)C)C(C)(C)C)CC3=C(C(=CC(=C3)C(C)(C)C)C(C)(C)C)O)C(=C1)C(C)(C)C | C57H83O4P
